US09056866B2
5-tert-Butyl-7-(3,3-difluoro-pyrrolidin-1-yl)-3-(3-trifluoromethyl-1H-pyrazol-4-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine
A mixture of crude 5-tert-Butyl-7-(3,3-difluoro-pyrrolidin-1-yl)-3-(3-trifluoromethyl-1-trityl-1H-pyrazol-4-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine, triethylsilane in TFA was stirred at room temperature for 3 h, concentrated and subjected to purification with preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and NEt3. After evaporation of the product containing fractions the title compound was isolated as white solid. MS(m/e): 431.3 (MH+).

reactant | 5-tert-Butyl-7-(3,3-difluoro-pyrrolidin-1-yl)-3-(3-trifluoromethyl-1-trityl-1H-pyrazol-4-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine | C(C)(C)(C)C=1N=C(C2=C(N1)N(N=N2)CC=2C(=NN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(F)(F)F)N2CC(CC2)(F)F | C36H33F5N8
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-tert-Butyl-7-(3,3-difluoro-pyrrolidin-1-yl)-3-(3-trifluoromethyl-1H-pyrazol-4-ylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine | C(C)(C)(C)C=1N=C(C2=C(N1)N(N=N2)CC=2C(=NNC2)C(F)(F)F)N2CC(CC2)(F)F | C17H19F5N8
